US05550260
1 To a solution of (S)-4-hydroxy-3-methyl-2(2-propynyl)cyclopent-2-ene-l-one (20.0 g) in dichloromethane (200 ml) were added with stirring 3,4-dihydro-2H-pyran (12.5 g) and a catalytic amount of p-toluenesulfonic acid hydrate under ice-water cooling, then the solution was stirred at room temperature for 1.5 hours. This solution was partitioned between diethyl ether and brine, and the organic layer was washed twice with brine. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The resultant residue was subjected to silica gel column chromatography (eluent; n-hexane:ethyl acetate=5:1) to afford (S)-4-(2-tetrahydropyranyloxy)-3-methyl-2-(2-propynyl)cyclopent-2-ene-1-one (27 g, yield 86.6%) pale yellow oil.

reactant | (S)-4-hydroxy-3-methyl-2(2-propynyl)cyclopent-2-ene-l-one | 20.0 g | O[C@@H]1C(=C(C(C1)=O)CC#C)C | C9H10O2
reactant | 3,4-dihydro-2H-pyran | 12.5 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (S)-4-(2-tetrahydropyranyloxy)-3-methyl-2-(2-propynyl)cyclopent-2-ene-1-one | 27 g, yield 86.6% | O1C(CCCC1)O[C@@H]1C(=C(C(C1)=O)CC#C)C | C14H18O3
